

*---------- SP2005KT5 Spice Model (SILIUP, LCSC C41355141) ----------
.SUBCKT SP2006KT5 10 20 30 
*     TERMINALS:  D  G  S
M1 10 20 30 30 PMOS1 L = 1E-006 W = 1E-006 
* Simple MOS3 model for SP2006KT5
* VTO and KP measured on the bench
* capacitance estimated
.model PMOS1 PMOS
+ LEVEL=3 
+ VTO=-0.506
+ KP=0.010
+ RD=0.85
+ RS=0.85

* Capacitances from datasheet
* Cgd = Crss = 9pF
CGD 10 20 9e-12
* Cds = Coss - Cgd. Coss=15pF
CDS 10 30 6e-12
* Cgs = Ciss - Cgd. Ciss=113pF
CGS 20 30 113e-12

.ENDS
